Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Left upper extremity pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
" ___ yo man HIV on ART with undetectable
viral load, history of MS, ongoing IV drug use, presents as
transfer for cellulitis of his left forearm and wrist. 

Noticed symptoms started about 1 week ago with mild swelling. He
had injected crystral meth into his left AC. Over the last two 
days have increasing pain to the level of ___ and swelling to
the point he could not bend his arm. He presented to OSH where 
he
had a CT scan which showed an intra-muscular abscess extending
close to the wrist joint space and thus he was transferred for
evaluation by hand surgery.

On arrival to the ED his vitals were T 99, HR 83, BP 130/80,
RR18, O2Sat 99% RA. Had surgery was consulted and recommended an
ultrasound which was done and showed Tenosynovitis of multiple
extensor tendons along the dorsal aspect of the 
wrist. They felt no surgery was needed at this time and he 
should
be admitted to medicine for IV antibitoics and elevation. He
received ceftriaxone and vacomycin as well as several doses of 
IV
morphine for pain. Labs were remarkable for WBC 16.2 and crp 
118.
He was admitted to medicine for further care. "
 
Past Medical History:
IVDU 
HIV 
Multiple sclerosis

 
Social History:
___
Family History:
Father: alcohol use disorder 
Mother: epilepsy and stroke 
 
Physical Exam:
ON ADMISSION:
VS:  98.5 PO 152 / ___ 98 RA 
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: left arm with significant edema and redness, pt
unable to bend at elbow joint 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  
GU: no catheter in place
========================
VITALS: 24 HR Data (last updated ___ @ 1544)
    Temp: 98.2 (Tm 98.2), BP: 133/78 (109-139/57-78), HR: 63 
(51-67), RR: 18, O2 sat: 98% (97-98), O2 delivery: RA  
GENERAL: Alert and in no apparent distress, appears comfortable,
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.
CV: RRR, no murmurs/rubs, no S3, no S4. 2+ radial pulses
bilaterally.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No GU catheter present
MSK: Left upper extremity with faint erythema and swelling
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, speech fluent, moves
all limbs, able to squeeze and grip object such as phone, intact 
sensation to light touch in fingers of left hand
PSYCH: Pleasant, appropriate affect, calm, cooperative
 
Pertinent Results:
LABS ON ADMISSION:
___ 01:45AM BLOOD WBC-16.2* RBC-4.27* Hgb-13.5* Hct-39.2* 
MCV-92 MCH-31.6 MCHC-34.4 RDW-12.8 RDWSD-42.2 Plt ___
___ 01:45AM BLOOD Neuts-76.3* Lymphs-13.6* Monos-8.6 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-12.36* AbsLymp-2.20 
AbsMono-1.39* AbsEos-0.12 AbsBaso-0.07
___ 01:45AM BLOOD ___ PTT-29.4 ___
___ 01:45AM BLOOD Glucose-110* UreaN-11 Creat-0.9 Na-138 
K-3.6 Cl-103 HCO3-23 AnGap-12
___ 07:16AM BLOOD ALT-51* AST-45* AlkPhos-131* TotBili-0.2
___ 01:45AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.9
___ 01:45AM BLOOD CRP-118.8*
___ 01:57AM BLOOD Lactate-0.8 K-3.3*
===================
LABS ON DISCHARGE:
___ 09:00AM BLOOD WBC-5.8 RBC-4.09* Hgb-12.8* Hct-38.1* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-12.5 RDWSD-42.7 Plt ___
___ 09:00AM BLOOD Glucose-102* UreaN-10 Creat-1.0 Na-144 
K-4.3 Cl-104 HCO3-28 AnGap-12
___ 07:16AM BLOOD Calcium-9.3 Phos-4.4 Mg-2.1
===================
MICROBIOLOGY:
Blood cultures x2 ___: PENDING - no growth to date
===================
___ - LEFT FOREARM X-RAYS ___:
Impression: Normal left forearm

LEFT UPPER EXTREMITY SOFT TISSUE ULTRASOUND ___:
IMPRESSION:  
1.  Tenosynovitis of multiple extensor tendons along the dorsal 
aspect of the wrist, which may be inflammatory or infectious. 
2.  Subcutaneous edema along the dorsal aspect of the wrist.  No 
abscess. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with HIV on ART with undetectable load, 
MS, ongoing IV drug use, who presented with left upper extremity 
pain and erythema after injecting crystal meth.  He was found to 
have cellulitis and tenosynovitis of left upper
extremity.

ACUTE/ACTIVE PROBLEMS:
#Left upper extremity tenosynovitis and cellulitis 
#Leukocytosis: Secondary to injecting crystal meth.  Initial WBC 
was 16.2. WBC resolved to 5.8 and he was afebrile. Hand surgery 
was consulted and no surgical intervention was needed.  He was 
started IV Ceftriaxone and Vancomycin on ___ and 
transitioned to oral Bactrim 1 DS BID on discharge.  For his 
tenosynovitis, opted to treat for 10 days (8 days remaining on 
discharge), with outpatient follow up on ___ with his PCP's 
office, at which time can determine if longer course is needed.  
Blood cultures from ___ were negative to date.  He was treated 
with Tylenol, ibuprofen, oxycodone and IV morphine for pain - on 
discharge he will use Tylenol, ibuprofen, a limited supply of 
Tramadol.

#IVDU
#Substance abuse: He admits to using crystal meth monthly but 
denies other substance abuse. Social work was following.

CHRONIC/STABLE PROBLEMS:
#HIV: He has undetectable viral load. Continued Dolutegravir and 
Emtricitabine-Tenofovir.

#Multiple sclerosis: Not on any medications at home because of 
interactions with HIV
medications.

====================
TRANSITIONAL ISSUES:
- Follow up blood cultures ___ - no growth to date
- Follow up with PCP's office on ___ to determine if he 
needs longer course of antibiotics
- Repeat CBC at ___'s office
====================
Mr. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
3. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Ibuprofen 200-400 mg PO Q6H:PRN Pain - Moderate  
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 8 Days *AST 
Approval Required*
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*16 Tablet Refills:*0 
4.  TraMADol 50 mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*6 Tablet Refills:*0 
5.  Dolutegravir 50 mg PO DAILY  
6.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
7.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left upper extremity cellulitis
Tenosynovitis of left wrist
Leukocytosis
Substance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with cellulitis (skin infection) and 
tenosynovitis (infection/inflammation of tendons) of your left 
arm.  You were seen by hand surgery who did not recommend 
surgical intervention.  You were treated with IV antibiotics and 
your pain and redness are improving.  You have not had fevers 
here and white blood cell count has normalized.  Blood cultures 
have no growth of infection so far.  You will continue 
antibiotic therapy with Bactrim at home for 8 more days.  Please 
follow up with your primary care doctor's office on ___ as 
scheduled and can determine if you need any further antibiotics 
at that time.  

You can take Tylenol and ibuprofen as needed for pain.  If pain 
is severe, you can use the Tramadol.

We strongly recommend avoiding any and all IV drug use, as this 
is the most likely way that the infection got into your arm, and 
puts you at high risk for bloodstream infection (fortunately no 
signs of this currently).  We hope that you will stay healthy 
and without future infections!
 
Followup Instructions:
___